US07179823B1
Sodium hydride (60%, oily, 270 mg) was added to a mixture of ethyl 3-phenyl-1H-pyrazole-4-carboxylate (1.20 g), 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (1.75 g), and N,N-dimethylformamide (50 ml) at 0° C., and the mixture was stirred at room temperature for 8 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboxylate (1.56 g, yield: 57%) as a colorless oily substance from the fraction eluted with diethyl ether-hexane (2:3, volume ratio).

reactant | Sodium hydride | 270 mg | [H-].[Na+]
reactant | ethyl 3-phenyl-1H-pyrazole-4-carboxylate | 1.20 g | C1(=CC=CC=C1)C1=NNC=C1C(=O)OCC | C12H12N2O2
reactant | 5-chloromethyl-2-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 1.75 g | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboxylate | 1.56 g, yield: 57% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)C(=O)OCC)C1=CC=CC=C1 | C29H26N4O4
